US20010018522A1
Step a: Tert-butyl 4-{[2-(phenylsulphonyl)hydrazino]carbonyl}phenylcarbamate
12.1 mmol (1.65 g) of 1-hydroxy-7-azabenzotriazole and 18 mmol (3.45 g) of EDCI are added in succession to a solution of 12 mmol (2.85 g) of 4-[(tert-butoxycarbonyl)amino]benzoic acid in 20 ml of dimethylformamide. The reaction mixture is stirred at room temperature for one hour, and 18 mmol (3.1 g) of benzenesulphonohydrazide are added. After stirring for eight hours at room temperature, the reaction mixture is poured into 100 ml of a 10% hydrochloric acid solution and extracted four times with 50 ml of ethyl acetate. The organic phase is washed twice with 50 ml of water and then three times with an aqueous saturated sodium hydrogen carbonate solution and once with 50 ml of an aqueous saturated sodium chloride solution. After drying over magnesium sulphate, filtration and concentration, the expected product is obtained.

reactant | 1-hydroxy-7-azabenzotriazole | 12.1 mmol, 1.65 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDCI | 18 mmol, 3.45 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-[(tert-butoxycarbonyl)amino]benzoic acid | 12 mmol, 2.85 g | C(C)(C)(C)OC(=O)NC1=CC=C(C(=O)O)C=C1 | C12H15NO4
reactant | benzenesulphonohydrazide | 18 mmol, 3.1 g | C1(=CC=CC=C1)S(=O)(=O)NN | C6H8N2O2S
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Tert-butyl 4-{[2-(phenylsulphonyl)hydrazino]carbonyl}phenylcarbamate | C1(=CC=CC=C1)S(=O)(=O)NNC(=O)C1=CC=C(C=C1)NC(OC(C)(C)C)=O | C18H21N3O5S
